US04032323
A warm solution of methyl 3-aminocrotonate (prepared according to the method of Conrad and Epstein, Chemische Berichte, 1887, 20, 3054, 10.4 g.) in toluene (20 ml.) was added with stirring to a solution of phenoxycarbonylisothiocyanate (16 g.) in toluene (50 ml.). The temperature of the mixture rose from 20° C. to 35° C. The mixture was then stirred for 11/2 hours at ambient temperature, filtered and the solid residue washed with light petroleum (b.p. 40°-60° C.) to give 3-imino-2-methoxycarbonyl-N-phenoxycarbonylthiobutyramide (8.6 g.) in the form of an orange solid, which was then dissolved in ethyl acetate (100 ml.). To this solution, a solution of bromine (1.67 ml.) in ethyl acetate (5 ml.) was added over 15 minutes at 2°-5° C. The mixture was stirred at ambient temperature for 11/2 hours and the solid product filtered off to give 4-methoxycarbonyl-3-methyl-5-phenoxycarbonylaminoisothiazole hydrobromide (9.6 g.) m.p. 170°- 173° C. A solution of methylamine in ethanol (30% w/v; 20 ml.) was added to 4-methoxycarbonyl-3-methyl-5-phenoxycarbonylaminoisothiazole hydrobromide (9.0 g.). The mixture was heated under reflux for 15 minutes, diluted with water (30 ml.), filtered and the solid residue dried at 100° C., to give 1-(4-methoxycarbonyl-3-methylisothiazol-5-yl)-3-methylurea (4.1 g.), m.p. 236°-237° C.

reactant | methylamine | CN | CH5N
reactant | 4-methoxycarbonyl-3-methyl-5-phenoxycarbonylaminoisothiazole hydrobromide | 9.0 g | Br.COC(=O)C=1C(=NSC1NC(=O)OC1=CC=CC=C1)C
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 1-(4-methoxycarbonyl-3-methylisothiazol-5-yl)-3-methylurea | 4.1 g | COC(=O)C=1C(=NSC1NC(=O)NC)C | C8H11N3O3S
